US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-isobutyryl-1H-benzo[d]imidazol-2(3H)-one
Methyl 6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (100 mg, 0.35 mmol) was dissolved in 5 mL of THF and stirred at room temperature followed by the addition of isopropylmagnesium bromide (0.87 mL, 2.0 mmol). Addition Grignard was added in 1 hour intervals until the starting material was consumed. Once complete, the crude reaction mixture was quenched with DI water and extracted 3× with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulphate, filtered, concentrated in vacuo, and purified via HPLC.

reactant | Methyl 6-(3,5-dimethylisoxazol-4-yl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 0.35 mmol, 100 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(=O)OC)C | C14H13N3O4
reactant | isopropylmagnesium bromide | 2.0 mmol, 0.87 mL | C(C)(C)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-isobutyryl-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(C(C)C)=O)C | C16H17N3O3
